US05789417
Using an analogous procedure to that described in Example 3, p-[N-((6RS)-2-methyl-4-oxo-3,4,7,8-tetrahydro-6H-cyclopenta[g]quinazolin-6-yl)-N-(prop-2-ynyl)amino]benzoic acid was coupled to diethyl (2S)-2-aminopimelate (J. Med. Chem., 1983, 26, 1719) and the resultant product was hydrolysed to give (2S)-2-{p-[N-((6RS)-2-methyl-4-oxo-3,4,7,8-tetrahydro-6H-cyclopenta[g]quinazolin-6-yl)-N-(prop-2-ynyl)amino]benzamido)pimelic acid in 25% yield, m.p. 165° C.;

reactant | p-[N-((6RS)-2-methyl-4-oxo-3,4,7,8-tetrahydro-6H-cyclopenta[g]quinazolin-6-yl)-N-(prop-2-ynyl)amino]benzoic acid | CC1=NC2=CC3=C(C=C2C(N1)=O)C(CC3)N(CC#C)C3=CC=C(C(=O)O)C=C3 | C22H19N3O3
reactant | diethyl (2S)-2-aminopimelate | N[C@H](C(=O)OCC)CCCCC(=O)OCC | C11H21NO4
product | (2S)-2-{p-[N-((6RS)-2-methyl-4-oxo-3,4,7,8-tetrahydro-6H-cyclopenta[g]quinazolin-6-yl)-N-(prop-2-ynyl)amino]benzamido)pimelic acid | 25% yield | CC1=NC2=CC3=C(C=C2C(N1)=O)C(CC3)N(CC#C)C3=CC=C(C(=O)N[C@H](C(=O)O)CCCCC(=O)O)C=C3 | C29H30N4O6
